US04070482
2-(1-Hydroxy-2-octynyl)-5-(tetrahydropyran-2-yloxy)cyclopentaneheptanoic Acid (3: R1 = H, R2 = tetrahydropyran-2-yl and R3 = H)
Under a nitrogen atmosphere at -40° C, a solution of 70.4 ml of n-butyl lithium in hexane (2.3 molar) is added dropwise to a solution of 1-heptane (14.78 g, 2.2 equivalents) in 50 ml of toluene. The mixture is stirred at the same temperature for 10 minutes. The solution is transferred carefully to an additional funnel and added at to a solution of 2-formyl-5-(tetrahydropyran-2-yloxy)-cyclopentaneheptanoic acid (22.82 g, 1 equivalent), described in Example 1, in 50 ml of toluene cooled to -70° C. The reaction is stirred at the same temperature for 2 hr. The mixture then is diluted with ether and washed with water. The aqueous layer is acidified with acetic acid and extracted with ether. The ether extract is washed with water, dried and concentrated to give the title compound, nmr (CDCl3) δ 0.89 (t, 3H), 3.90 (broad, 1H), 4.33 (m, 1H).

reactant | n-butyl lithium | 70.4 ml | C(CCC)[Li]
reactant | 2-formyl-5-(tetrahydropyran-2-yloxy)-cyclopentaneheptanoic acid | 22.82 g, 1 equivalent | C(=O)C1C(C(CC1)OC1OCCCC1)CCCCCCC(=O)O | C18H30O5
reactant | hexane | 2.3 molar | CCCCCC | C6H14
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | 2-(1-Hydroxy-2-octynyl)-5-(tetrahydropyran-2-yloxy)cyclopentaneheptanoic Acid | OC(C#CCCCCC)C1C(C(CC1)OC1OCCCC1)CCCCCCC(=O)O | C25H42O5
